US04017620
To a solution of 0.3 g. of ethyl 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate in 5 ml. of methanol is added 1 ml. of 2N-sodium hydroxide. After the mixture is stirred for 1 hour at room temperature, the resulting solution is neutralized with 2N-hydrochloric acid, then diluted with water and extracted with chloroform. After the chloroform layer is washed with water and dried over sodium sulfate, the solvent is evaporated. Recrystallization of the residue from methanol yields 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid as crystals melting at 162° to 163° C.

reactant | ethyl 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylate | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1C)C)N1N=C(N=C1CCl)C(=O)OCC | C19H18ClN3O3S
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(3-benzoyl-4,5-dimethyl-2-thienyl)-5-chloromethyl-1H-1,2,4-triazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C(SC(=C1C)C)N1N=C(N=C1CCl)C(=O)O | C17H14ClN3O3S
